* generated DPT SIC1200_23R V=830 I=25 Rgon=4.7 Rgoff=4.7 Lloop=1e-8
.include ../models/sic-behavioral.lib
VBUS bus 0 DC 830
CDC bus 0 100u ic=830
LLP bus kd 1e-8
MFW kd gfw swk SIC1200_23R
LFWK swk sw 1.5n
RGFW gfw fwref 4.7
VGFW fwref swk -4
RSN sw nsn 10
CSN nsn 0 470p
* no clamp
LLD kd sw 0.00006 ic=0
VSNS sw d1 0
LD d1 d 2n
M1 d g ks SIC1200_23R
LKS ks s 1.5n
LSP s 0 2n
VDRV drv ks PWL(0 -4 1e-7 -4 1.05e-7 18 0.0000019072289156626505 18 0.0000019122289156626504 -4 0.0000034072289156626505 -4 0.0000034122289156626505 18 0.000004207228915662651 18 0.000004212228915662651 -4)
RGN drv gon 4.7
DGN gon g DIDEAL
DGF g goff DIDEAL
RGF goff drv 4.7
.model DIDEAL D(Is=1e-3 N=0.1)
.tran 0.25n 0.000004807228915662651 uic
.option method=gear reltol=1e-3 abstol=1u vntol=1m
.control
set filetype=ascii
run
wrdata dpt-llc1200-final.out v(d,ks) v(g,ks) i(VSNS) v(gfw,swk)
quit
.endc
.end